US08703797B2
N-(3,5-Dichlorophenyl)-2-(4-methyl-1,8-naphthyridin-2-yl)hydrazinecarboxamide:
To a solution of 2-hydrazinyl-4-methyl-1,8-naphthyridine prepared above (84 mg, 0.482 mmol) in CH2Cl2 was added 3,5-dichlorophenyl isocyanate (91 mg, 1.0 eq). The resulting mixture was stirred at room temperature overnight. The resulting precipitate was filtered off and washed with EtOAc to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.51 (s, 3 H) 6.78 (s, 1 H) 7.05 (t, J=1.90 Hz, 1 H) 7.23 (dd, J=7.91, 4.40 Hz, 1 H) 7.61 (br. s., 2 H) 8.22 (dd, J=8.06, 1.90 Hz, 1 H) 8.57 (br. s., 1 H) 8.68 (dd, J=4.40, 1.76 Hz, 1 H) 8.98 (s, 1 H) 9.22 (br. s., 1 H).

reactant | 2-hydrazinyl-4-methyl-1,8-naphthyridine | N(N)C1=NC2=NC=CC=C2C(=C1)C | C9H10N4
reactant | 3,5-dichlorophenyl isocyanate | 91 mg, 1.0 eq | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3,5-Dichlorophenyl)-2-(4-methyl-1,8-naphthyridin-2-yl)hydrazinecarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)NNC1=NC2=NC=CC=C2C(=C1)C | C16H13Cl2N5O
